US05290943
To 47.5 g of an aqueous solution containing 0.2 mol of 2-propionamido pyridine (Ie), a solution containing 71 g (0.5 ml) of disodium hydrogenphosphate dissolved in 450 g of water was added. To this mixture, a solution containing 49.2 g (0.31 mol) of bromine dissolved in 50 g of acetic acid was added with stirring at 10°-15° C. for 4 hours. After having been stirred at room temperature for one hour and then at 60° C. for one hour, the mixture was cooled. The crystal precipitated thereby was filtered. After the crystal was washed with water and dried, 38.8 g (yield: 84.7%) of 2-propionamido-5-bromopyridine (IIe) was obtained as a dark white crystal.

reactant | 2-propionamido pyridine | 0.2 mol | C(CC)(=O)NC1=NC=CC=C1 | C8H10N2O
reactant | disodium hydrogenphosphate | 0.5 ml, 71 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 0.31 mol, 49.2 g | BrBr | Br2
solvent | water | 450 g | O | H2O
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
product | 2-propionamido-5-bromopyridine | 38.8 g, yield: 84.7% | C(CC)(=O)NC1=NC=C(C=C1)Br | C8H9BrN2O
